US04827004
A solution of 2 g (0.0065 mol) of tetrahydro-2-[[(2E,6Z)-3,7,11-trimethyl-2,6,10-dodecatrienyl]oxy]-2H-pyran dissolved in 13 ml of monoglyme and 2.6 ml of water is treated portionwise at -10° with 1.3 g of N-bromosuccinimide. The mixture is subsequently stirred at 0° for 1/4 hour and at room temperature for 2 hours. The reaction solution is poured into 100 ml of water and extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution. After drying and removing the solvent the residue, containing tetrahydro-2-[[(2E,6Z)-10-bromo-11-hydroxy-3,7,11-trimethyl-2,6,10-dodecatrienyl]oxy]-2H-pyran, is dissolved in 18 ml of methanol and treated with 600 mg of potassium carbonate. The suspension is stirred at room temperature for 1.5 hours under argon. After removing the methanol on a rotary evaporator the residue is treated with 500 ml of ether and 200 ml of water. The organic phase is washed with saturated sodium chloride solution. After drying and removing the solvent the residue, containing (6Z,10E)-2,3-epoxy-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)-oxy]-6,10-dodecadiene, is dissolved in 30 ml of toluene and treated with 1.35 g of aluminum isopropylate. The reaction mixture is boiled at reflux for 17 hours. After cooling to room temperature the reaction mixture is poured into 200 ml of an ice-water mixture. After acidification with 1N hydrochloric acid the mixture is extracted with 3×150 ml of hexane. The organic phase is washed with 500 ml of saturated sodium chloride solution. After drying and removing the solvent the residue is chromatographed on silica gel with a 1:2 ether-hexane mixture which additionally contains 0.1% triethylamine. There is obtained (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol which has the following bands in the IR spectrum: 3447 cm-1, 1644 cm-1, 1443 cm-1, 1379 cm-1, 909 cm-1.

reactant | tetrahydro-2-[[(2E,6Z)-3,7,11-trimethyl-2,6,10-dodecatrienyl]oxy]-2H-pyran | 0.0065 mol, 2 g | C\C(=C/COC1OCCCC1)\CC\C=C(/CCC=C(C)C)\C | C20H34O2
reactant | water | 2.6 ml | O | H2O
reactant | N-bromosuccinimide | 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 100 ml | O | H2O
solvent | monoglyme | 13 ml | C(OC)COC | C4H10O2
product | (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol | CC(=C)C(CC\C(=C/CC\C(=C\COC1OCCCC1)\C)\C)O | C20H34O3
